US04855480
Concentrated sulfuric acid (4 mL) was added to a stirred mixture of 2-chlorobenzaldehyde (24.5 grams; 0.174 mole) and 4,4-dimethyl-3-isoxazolidinone (20.1 grams; 0.174 mole) in toluene (150 mL) cooled in an ice bath and under a nitrogen atmosphere. Upon completion of addition, the reaction mixture was stirred at ambient temperature overnight under a nitrogen atmosphere. The reaction mixture was then neutralized by the careful addition of solid sodium bicarbonate and then extracted with aqueous sodium bicarbonate (3×500 mL). The combined aqueous extracts were acidified to pH 3 with concentrated hydrochloric acid and then extracted with methylene chloride (3×150 mL). The dried (sodium sulfate) organic layer was concentrated under reduced pressure to afford 16 grams of 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoic acid as a solid, m.p. 78°-80° C.

reactant | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-chlorobenzaldehyde | 0.174 mole, 24.5 grams | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4,4-dimethyl-3-isoxazolidinone | 0.174 mole, 20.1 grams | CC1(C(NOC1)=O)C | C5H9NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoic acid | 16 grams | ClC1=C(C=NOCC(C(=O)O)(C)C)C=CC=C1 | C12H14ClNO3
